US04366318
3-Methyl-N-(2-carboxyphenyl)anthranilic acid
The potassium salt of 3-methylanthranilic acid was generated by hydrogenation (Palladium-charcoal catalyst) of a solution of the potassium salt of 2-nitro-3-methylbenzoic acid (37.4 gm) in methanol-H2O (1:4 v/v) with following clarification and evaporation to dryness. To this potassium salt were added 2-chlorobenzoic acid (34.5 gm), K2CO3 (34.5 gm), catalytic Cu powder (0.3 gm), CuBr (0.3 gm), N-methyl-2-pyrrolidone (45 ml) and 2-ethoxyethanol (45 ml) and the mixture was heated in an oil bath at 150° C. with stirring for 21/2 hr. Water (1.5 L) was added to the cooled mixture and the whole warmed until the salts had dissolved and crude product was precipitated from the clarified solution by acidiciation with excess HOAc. The product was washed well with boiling water, then dissolved in 5% aqueous Na2CO3 (500 ml) and decolourising charcoal (5 gm) stirred in. To the boiling clarified solution EtOH (500 ml) was added and the mixture acidified by the slow addition of HOAc. The crystalline diacid which separated from the hot solution was collected, washed with boiling water and dried (48.9 gm). Crystallisation from EtOH--H2O provided homogeneous material as colourless needles of mp 258°-259° C.

reactant | potassium | [K] | K
reactant | 3-methylanthranilic acid | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
reactant | 2-nitro-3-methylbenzoic acid | 37.4 gm | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1C | C8H7NO4
catalyst | Palladium-charcoal | [Pd] | Pd
solvent | methanol H2O | CO.O
product | 3-Methyl-N-(2-carboxyphenyl)anthranilic acid | CC1=C(C(C(=O)O)=CC=C1)NC1=C(C=CC=C1)C(=O)O | C15H13NO4
